* NGSPICE file created from gf180mcu_ocd_io__dvdd.ext - technology: gf180mcuD

.subckt comp018green_esd_rc_v5p0 VRC VPLUS VMINUS
X0 a_353_2269# a_13226_1989# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X1 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X2 a_353_3389# a_13226_3109# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X3 a_353_2829# a_13226_3109# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X4 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X5 a_353_1709# a_13226_1989# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X6 a_353_1709# a_13226_1429# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X7 a_353_2829# a_13226_2549# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X8 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X9 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X10 VRC a_13226_3669# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X11 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X12 a_353_1149# a_13226_1429# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X13 VPLUS a_13226_869# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X14 a_353_2269# a_13226_2549# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X15 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X16 a_353_3389# a_13226_3669# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
X17 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X18 VRC VMINUS cap_nmos_06v0 c_width=25u c_length=10u
X19 a_353_1149# a_13226_869# VPLUS ppolyf_u r_width=0.8u r_length=63.855u
.ends

.subckt nmos_clamp_20_50_4_DVDD a_582_632# w_n51_n51# a_1237_1481#
X0 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X1 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X2 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X3 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X4 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X5 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X6 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X7 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X8 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X9 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X10 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X11 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X12 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X13 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X14 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X15 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X16 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X17 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X18 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X19 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X20 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X21 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X22 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X23 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X24 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X25 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X26 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X27 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X28 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X29 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X30 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X31 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X32 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X33 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X34 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X35 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X36 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X37 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X38 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X39 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X40 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X41 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X42 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X43 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X44 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X45 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X46 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X47 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X48 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X49 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X50 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X51 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X52 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X53 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X54 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X55 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
X56 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X57 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X58 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X59 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X60 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X61 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X62 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X63 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X64 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X65 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X66 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X67 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X68 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X69 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X70 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X71 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X72 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X73 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=22p pd=0.10088m as=13p ps=50.52u w=50u l=0.7u
X74 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X75 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X76 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X77 w_n51_n51# a_1237_1481# a_582_632# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X78 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=13p ps=50.52u w=50u l=0.7u
X79 a_582_632# a_1237_1481# w_n51_n51# a_582_632# nfet_06v0 ad=13p pd=50.52u as=22p ps=0.10088m w=50u l=0.7u
.ends

.subckt comp018green_esd_clamp_v5p0_DVDD comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VMINUS
Xcomp018green_esd_rc_v5p0_0 comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS
+ comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0
Xnmos_clamp_20_50_4_DVDD_0 comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VPLUS
+ a_4685_27917# nmos_clamp_20_50_4_DVDD
X0 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X1 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X2 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X3 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X4 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X5 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X6 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X7 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X8 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X9 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X10 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X11 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X12 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X13 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X14 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X15 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X16 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X17 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X18 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X19 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X20 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X21 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X22 comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VRC a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X23 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X24 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=0.7u
X25 comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VRC a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X26 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X27 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=2.2p ps=10.88u w=5u l=0.7u
X28 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X29 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X30 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X31 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X32 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X33 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X34 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X35 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X36 comp018green_esd_rc_v5p0_0/VPLUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X37 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X38 comp018green_esd_rc_v5p0_0/VMINUS a_3781_27917# a_4685_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=2.2p pd=10.88u as=1.3p ps=5.52u w=5u l=0.7u
X39 a_2805_27917# comp018green_esd_rc_v5p0_0/VRC comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X40 a_3781_27917# a_2805_27917# comp018green_esd_rc_v5p0_0/VMINUS comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X41 comp018green_esd_rc_v5p0_0/VMINUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VMINUS nfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X42 comp018green_esd_rc_v5p0_0/VPLUS a_2805_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
X43 a_4685_27917# a_3781_27917# comp018green_esd_rc_v5p0_0/VPLUS comp018green_esd_rc_v5p0_0/VPLUS pfet_06v0 ad=1.3p pd=5.52u as=1.3p ps=5.52u w=5u l=0.7u
.ends

.subckt GF_NI_DVDD_BASE DVSS DVSS_uq0 DVSS_uq1 DVSS_uq2 DVSS_uq3 DVSS_uq4 DVSS_uq5
+ DVSS_uq6 DVSS_uq7 DVSS_uq8 DVDD a_246_47643# a_13001_27179# m2_2279_36800# comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS
Xcomp018green_esd_clamp_v5p0_DVDD_0 DVDD comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS
+ comp018green_esd_clamp_v5p0_DVDD
D0 comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS DVDD diode_nd2ps_06v0 pj=82u area=40p
X0 DVDD comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS cap_nmos_06v0 c_width=15u c_length=15u
D1 comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS DVDD diode_nd2ps_06v0 pj=82u area=40p
D2 comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS DVDD diode_nd2ps_06v0 pj=82u area=40p
D3 comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS DVDD diode_nd2ps_06v0 pj=82u area=40p
X1 DVDD comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS cap_nmos_06v0 c_width=15u c_length=15u
X2 DVDD comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS cap_nmos_06v0 c_width=15u c_length=15u
X3 DVDD comp018green_esd_clamp_v5p0_DVDD_0/comp018green_esd_rc_v5p0_0/VMINUS cap_nmos_06v0 c_width=15u c_length=15u
.ends

.subckt x5LM_METAL_RAIL_PAD_60 VSUBS Bondpad_5LM_0/m2_n400_0# 5LM_METAL_RAIL_0/VDD_uq0
+ 5LM_METAL_RAIL_0/VDD 5LM_METAL_RAIL_0/VSS 5LM_METAL_RAIL_0/DVDD 5LM_METAL_RAIL_0/DVDD_uq4
+ 5LM_METAL_RAIL_0/DVDD_uq3 5LM_METAL_RAIL_0/DVSS 5LM_METAL_RAIL_0/DVDD_uq2 5LM_METAL_RAIL_0/DVDD_uq0
+ 5LM_METAL_RAIL_0/DVSS_uq0 5LM_METAL_RAIL_0/DVDD_uq1 5LM_METAL_RAIL_0/VSS_uq0 5LM_METAL_RAIL_0/DVSS_uq6
+ 5LM_METAL_RAIL_0/DVSS_uq5 5LM_METAL_RAIL_0/DVSS_uq4 5LM_METAL_RAIL_0/DVSS_uq3 5LM_METAL_RAIL_0/DVSS_uq2
+ 5LM_METAL_RAIL_0/DVSS_uq1
.ends

.subckt gf180mcu_ocd_io__dvdd DVDD DVSS VSS VDD
XGF_NI_DVDD_BASE_0 DVSS DVSS DVSS DVSS DVSS DVSS DVSS DVSS DVSS DVSS DVDD VSS VSS
+ VSS DVSS GF_NI_DVDD_BASE
X5LM_METAL_RAIL_PAD_60_0 VSS DVDD VDD VDD VSS DVDD DVDD DVDD DVSS DVDD DVDD DVSS DVDD
+ VSS DVSS DVSS DVSS DVSS DVSS DVSS x5LM_METAL_RAIL_PAD_60
.ends

